### PR TITLE
[Merged by Bors] - feat(Data/Matrix): add `vecMul_fromRows` and `fromCols_mulVec`

### PR DESCRIPTION
**Pull request by staroperator**
We have [`Matrix.fromBlocks_mulVec`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Matrix/Block.html#Matrix.fromBlocks_mulVec) and [`Matrix.vecMul_fromBlocks`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Matrix/Block.html#Matrix.vecMul_fromBlocks) but not the `fromRows`/`fromCols` version. I find those helpful in #27414.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 1]
```diff
@@ -193,13 +193,25 @@ lemma sumElim_vecMul_fromRows [Fintype m₁] [Fintype m₂] (B₁ : Matrix m₁
   ext
   simp [Matrix.vecMul, fromRows, dotProduct]
 
+lemma vecMul_fromRows [Fintype m₁] [Fintype m₂]
+    (B₁ : Matrix m₁ n R) (B₂ : Matrix m₂ n R) (v : m₁ ⊕ m₂ → R) :
+    v ᵥ* fromRows B₁ B₂ = v ∘ Sum.inl ᵥ* B₁ + v ∘ Sum.inr ᵥ* B₂ := by
+  rw [← Sum.elim_comp_inl_inr v, sumElim_vecMul_fromRows]
+  simp
```
Comment (themathqueen) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean]:
```suggestion
  simp [← sumElim_vecMul_fromRows]
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean [hunk 2]
```diff
@@ -193,13 +193,25 @@ lemma sumElim_vecMul_fromRows [Fintype m₁] [Fintype m₂] (B₁ : Matrix m₁
...
     (A₁ : Matrix m n₁ R) (A₂ : Matrix m n₂ R) (v₁ : n₁ → R) (v₂ : n₂ → R) :
     fromCols A₁ A₂ *ᵥ Sum.elim v₁ v₂ = A₁ *ᵥ v₁ + A₂ *ᵥ v₂ := by
   ext
   simp [Matrix.mulVec, fromCols]
 
+lemma fromCols_mulVec [Fintype n₁] [Fintype n₂]
+    (A₁ : Matrix m n₁ R) (A₂ : Matrix m n₂ R) (v : n₁ ⊕ n₂ → R) :
+    fromCols A₁ A₂ *ᵥ v = A₁ *ᵥ v ∘ Sum.inl + A₂ *ᵥ v ∘ Sum.inr := by
+  rw [← Sum.elim_comp_inl_inr v, fromCols_mulVec_sumElim]
+  simp
```
Comment (themathqueen) [inline Mathlib/Data/Matrix/ColumnRowPartitioned.lean]:
```suggestion
  simp [← fromCols_mulVec_sumElim]
```

File: Mathlib/Data/Matrix/ColumnRowPartitioned.lean (hunk 1 above)
Comment (staroperator) [reply Mathlib/Data/Matrix/ColumnRowPartitioned.lean]: Nice

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by bryangingechen — COMMENTED** [review]
Should these also be `simp` like their analogues?

Thanks!
bors d+

**Comment by staroperator** [comment]
> Should these also be `simp` like their analogues?
> 
> Thanks! bors d+

If so, `sumElim_vecMul_fromRows` and `fromCols_mulVec_sumElim` should be unsimped since they are superseded by `vecMul_fromRows` and `fromCols_mulVec` together with other `simp` lemmas. Let me give it a try and see if it builds.

**Comment by ghost** [comment]
!bench

**Comment by staroperator** [comment]
Looks fine.

bors r+
